US07601728B2
Methyl 6-[(3R)-3-aminopiperidin-1-yl]-5-(2-chloro-5-fluorobenzyl)-7-cyano-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidine-2-carboxylate
Methyl cyanoformate (170 μl) was added to a solution of ethyl 3-amino-5-{(3R)-3-[(tertbutoxycarbonyl)amino]piperidin-1-yl}-1-(2-chloro-5-fluorobenzyl)-4-cyano-1H-pyrrole-2-carboxylate (104 mg) in hydrochloric acid-methanol reagent 10 (4 ml), and the resulting mixture was stirred with heating at 90° C. in a sealed tube for 15 hours. The reaction solution was concentrated under reduced pressure and chloroform was added to the residue. The solid precipitated was removed by filtration and the filtrate was concentrated under reduced pressure. To the resulting residue was added diethyl ether, and the solid precipitated was collected by filtration to obtain a crude product of the title compound (107 mg).

reactant | Methyl cyanoformate | 170 μl | C(#N)C(=O)OC | C3H3NO2
reactant | ethyl 3-amino-5-{(3R)-3-[(tertbutoxycarbonyl)amino]piperidin-1-yl}-1-(2-chloro-5-fluorobenzyl)-4-cyano-1H-pyrrole-2-carboxylate | 104 mg | NC1=C(N(C(=C1C#N)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)CC1=C(C=CC(=C1)F)Cl)C(=O)OCC | C25H31ClFN5O4
solvent | hydrochloric acid methanol | Cl.CO
product | Methyl 6-[(3R)-3-aminopiperidin-1-yl]-5-(2-chloro-5-fluorobenzyl)-7-cyano-4-oxo-4,5-dihydro-3H-pyrrolo[3,2-d]pyrimidine-2-carboxylate | 107 mg | N[C@H]1CN(CCC1)C1=C(C=2N=C(NC(C2N1CC1=C(C=CC(=C1)F)Cl)=O)C(=O)OC)C#N | C21H20ClFN6O3
